US09278089B2
Synthesis of 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid (Froshauer, S. A. et al., U.S. Pat. No. 5,981,762 (1999)): 3-Bromo-1H-indole-2-carboxylic acid ethyl ester (536 mg, 2.0 mmol), is prepared by following the method given by Elliott, J. D. et al., (U.S. Pat. No. 5,684,032 (1997)) is dissolved in nitromethane (10 mL) and cooled to 0° C. AlCl3 is added to the flask. Then a solution of isovaleryl chloride (0.295 mL, 2.4 mmol) in nitromethane (2 mL) was added dropwise to the flask. The mixture is allowed to come to room temperature and stirred for 18 hours, and then cooled to 0° C. 20 mL ice-water is added and extracted with CH2Cl2 (4×20 mL). The combined organic phase is washed with saturated brine (20 mL), 1N NaHCO3 (20 mL) and saturated brine (2×20 mL), dried over anhydrous Na2SO4, filtered, and concentrated under vacuum to give yellow solid. It is then purified by flash column chromatography eluted with hexane:ethyl acetate (6:1) to give 3-Bromo-5-(3-methyl-butyryl)-1H-indole-2-carboxylic acid ethyl ester (468 mg, 67%) as light yellow solid. 1H NMR (300 MHz, DMSO-d6) 612.60 (brs, 1H); 8.20 (d, J=1.2 Hz, 1H), 7.97 (dd, J=8.7, 1.8 Hz, 1H), 7.57 (d, J=8.7 Hz, 1H), 4.41 (q, J=6.9 Hz, 2H), 2.98 (d, J=6.9 Hz, 2H), 2.20 (m, 1H), 1.39 (t, J=6.9 Hz, 3H), 0.97 (d, J=6.9 Hz, 6H). EIMS m/z 352.0 (M++H).

reactant | 5-(3-Methyl-butyryl)-1H-indole-2-carboxylic acid | CC(CC(=O)C=1C=C2C=C(NC2=CC1)C(=O)O)C | C14H15NO3
reactant | 3-Bromo-1H-indole-2-carboxylic acid ethyl ester | 2.0 mmol, 536 mg | C(C)OC(=O)C=1NC2=CC=CC=C2C1Br | C11H10BrNO2
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | isovaleryl chloride | 2.4 mmol, 0.295 mL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | nitromethane | 10 mL | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 2 mL | [N+](=O)([O-])C | CH3NO2
product | 3-Bromo-5-(3-methyl-butyryl)-1H-indole-2-carboxylic acid ethyl ester | 468 mg, 67% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1Br)C(CC(C)C)=O | C16H18BrNO3
